US06489517B1
Third Step of the Process: Preparation of 3,3′,6,6′-tetramethyl-2,2′-biphenol
A sample of purified 5,5′-dichloro-3,3′,6,6′-tetramethyl-2,2′-biphenol (15.0 g, 48.4 mmol) was dissolved in 100 mL of ethanol containing 10 mL of water and 20 mL of triethylamine. This solution was added to 1.0 g (dry weight basis) of moist 20% Pd(OH)2/C (Pearlman's catalyst) and hydrogenated at 50 psig for 2 hours at ambient temperature. The product was isolated by filtration of catalyst, concentration, dissolution of the residue in EtOAc, washing with water, and concentration to dryness to give 11.0 g (94%) of product, mp 110-113° C. 1H-NMR (CDCl3) δ 1.95 (s, 3H), 2.25 (s, 3H), 4.71 (s, 1H), 6.81 (d, 1H, J=7.5 Hz), 7.10 (d, 1H, J=7.5 Hz).

reactant | 5,5′-dichloro-3,3′,6,6′-tetramethyl-2,2′-biphenol | 48.4 mmol, 15.0 g | ClC1=CC(=C(C(=C1C)O)C=1C(=C(C(=CC1C)Cl)C)O)C | C16H16Cl2O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | 3,3′,6,6′-tetramethyl-2,2′-biphenol | 11.0 g, 94% | CC1=C(C(=C(C=C1)C)O)C=1C(=C(C=CC1C)C)O | C16H18O2
